* D:\Users\seth\Documents\Git\cc-led-driver\ltspice\inputFilter.asc
L1 N002 N001 88.4n Rser=4m Rpar=37 Cpar=1.2p
C1 N002 0 72.6n Rser=25.1m Lser=381.7p
C2 N002 0 4.24µ Rser=2.9m Lser=1.1n
C3 N002 0 4.24µ Rser=2.9m Lser=1.1n
V1 N001 0 AC 1
C4 N003 0 4.24µ Rser=2.9m Lser=1.1n
C5 N003 0 4.24µ Rser=2.9m Lser=1.1n
R1 N002 N003 100m
C6 N002 0 72.6n Rser=25.1m Lser=381.7p
.ac dec 1000 10 10G
.backanno
.end
