* D:\Users\seth\Documents\Git\cc-led-driver\ltspice\inputFilter.asc
L1 Vout N001 88.4n Rser=4m Rpar=37 Cpar=1.2p
C1 Vout 0 72.6n Rser=25.1m Lser=381.7p
C2 N002 0 4.24µ Rser=2.9m Lser=1.1n
C3 N002 0 4.24µ Rser=2.9m Lser=1.1n
C6 Vout 0 72.6n Rser=25.1m Lser=381.7p
R2 Vout N002 50m
R3 N001 Zin 50m
C4 N003 0 72.6n Rser=25.1m Lser=381.7p
R1 Zin N003 1
V1 Zin 0 AC 1
.ac dec 1000 10 1G
* Fuse
.backanno
.end
